US04742069
A solution, cooled to -75°, of 24.5 g of 1-methyl-1,3-bis(trimethylsiloxy)-1,3-butadiene and 10.1 g of triethylamide in 100 ml of dry tetrahydrofuran was treated dropwise at -80° to -70° under argon with a solution of 14.4 g of N-ethyl-sulfamoyl chloride in 50 ml of dry tetrahydrofuran and the mixture was subsequently stirred at the same temperature for 2 hours. The temperature was then allowed to rise to room temperature, the mixture was stirred for 1 hour, acidified at 15°-20° with 110 ml of 2N hydrochloric acid and stirred for a further 15 minutes. The mixture was extracted with ether and the extracts, dried over sodium sulfate, were evaporated to dryness. The residual oil was dissolved in 250 ml of toluene, 0.4 g of methanesulfonic acid was added thereto and the mixture was heated to reflux for 15 hours with a water separator. The solution obtained was cooled, concentrated to dryness under reduced pressure and the residual oil was chromatographed on 280 g of silica gel with methylene chloride/ethyl acetate (9:1) as the elution agent. The uniform fractions were combined and evaporated. After triturating the residue with ether there were obtained 13.8 g of 2-ethyl-3-methyl-1,2-thiazin-5-(6H)-one 1,1-dioxide in the form of almost colorless crystals, m.p. 90°-92°. Recrystallization from ethanol did not increase the melting point.

reactant | 1-methyl-1,3-bis(trimethylsiloxy)-1,3-butadiene | 24.5 g | CC(=CC(=C)O[Si](C)(C)C)O[Si](C)(C)C | C11H24O2Si2
reactant | N-ethyl-sulfamoyl chloride | 14.4 g | C(C)NS(=O)(=O)Cl | C2H6ClNO2S
reactant | hydrochloric acid | 2N, 110 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-ethyl-3-methyl-1,2-thiazin-5-(6H)-one 1,1-dioxide | 13.8 g | C(C)N1S(CC(C=C1C)=O)(=O)=O | C7H11NO3S
